US09388189B2
b) 2,4-Difluoro-N-(3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-3-yl)benzenesulfonamide
N-(3-Bromopyridin-3-yl)-2,4-difluorobenzenesulfonamide (705 mg, 2.02 mmol), bis(pinacolato)diboron (780 mg, 3.07 mmol), potassium acetate (115 mg, 1.17 mmol), and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (740 mg, 0.91 mmol) were suspended in dioxane (5 ml) and heated overnight at 100° C. After evaporation of the solvent under reduced pressure, ethyl acetate (20 ml) was added to the residue and the precipitated salts were eliminated by filtration. The solvent was evaporated under reduced pressure and hexane (30 ml) was added to the residue. The solid formed was filtered off and this operation was repeated with the organic phase (another 30 ml of hexane were added after evaporation), to obtain 1.12 g (97% yield, 40% purity), which was used in the next synthetic step without further purification.

reactant | N-(3-Bromopyridin-3-yl)-2,4-difluorobenzenesulfonamide | 2.02 mmol, 705 mg | BrC1(CN=CC=C1)NS(=O)(=O)C1=C(C=C(C=C1)F)F | C11H9BrF2N2O2S
reactant | bis(pinacolato)diboron | 3.07 mmol, 780 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.17 mmol, 115 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2,4-Difluoro-N-(3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-3-yl)benzenesulfonamide | 97% yield | FC1=C(C=CC(=C1)F)S(=O)(=O)NC1(CN=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C17H21BF2N2O5S
